US05804601
In pyridine (3 ml) was dissolved methoxymethyl 7-(1-amino-2-naphthyl)heptanoate (0.3 g) followed by addition of mesyl chloride (0.218 g), and the mixture was stirred at 50° C. for 2 hours. This reaction mixture was poured in 0.5N HCl and extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated to dryness. The residue was treated with 1N HCl (3 ml) and tetrahydrofuran (6 ml) at the reflux temperature for 1.5 hours and, after cooling, extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated to dryness, and the residue was recrystallized from hexane-diisopropyl ether to provide 7-(1-mesylamino-2-naphthyl)heptanoic acid (0.281 g).

reactant | methoxymethyl 7-(1-amino-2-naphthyl)heptanoate | 0.3 g | NC1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)OCOC | C19H25NO3
reactant | mesyl chloride | 0.218 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | HCl | 0.5N | Cl | ClH
product | 7-(1-mesylamino-2-naphthyl)heptanoic acid | 0.281 g | S(=O)(=O)(C)NC1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)O | C18H23NO4S
